data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3588,4095,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([C:18]#[N:19])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,17.343168711913314,-38.653219184684666
4353,4974,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:20](=[O:21])[O:22][CH3:23])[NH:12][N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,26.77773049273675,3.1922837489426
3060,3434,[CH2-:5][O+:6]=[C:7]([C:8]#[N:9])[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1.[CH3:1]/[CH:2]=[CH:3]\[CH3:4]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[CH2:5][O:6][C:7]1([C:8]#[N:9])[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1,water,298.15,5.562125555921569,-53.35920517849264
2166,2402,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24](=[O:25])[C:26]([C:27]#[N:28])=[N+:29]([CH3:30])[O-:31]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:26]([C:24]([CH3:23])=[O:25])([C:27]#[N:28])[N:29]([CH3:30])[O:31]2,water,298.15,24.376585609239346,-18.73374258492608
1070,1167,[CH3:18][NH:19][C:20](=[O:21])[C:22]#[N+:23][O-:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[c:9]2[c:10]([o:24][n:23][c:22]2[C:20]([NH:19][CH3:18])=[O:21])[C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1,water,298.15,16.366696485291207,-64.98225829111657
4073,4664,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[NH:14][CH3:15])=[N+:16]([CH3:17])[C-:18]([CH3:19])[C:20]#[N:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12](=[O:13])[NH:14][CH3:15])[N:16]([CH3:17])[C:18]1([CH3:19])[C:20]#[N:21],water,298.15,23.550694767644032,-16.860996052050574
3629,4148,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:17]([CH3:18])=[O:19])[N:15]=[N:16]1,water,298.15,36.679986338007325,8.43982398679233
4629,5278,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH:19]=[O+:20][CH-:21][C:22]([CH3:23])=[O:24]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:21]([C:22]([CH3:23])=[O:24])[O:20][CH:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,9.229707215135209,-51.10867454509079
3729,4265,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[O+:16]=[C:17]([C:18]#[N:19])[C:20]#[N:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:14]#[N:15])[O:16][C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,8.754255361924324,-38.9672350251688
2871,3190,[CH3:19][O:20][C:21](=[O:22])[C-:23]([N+:24]#[C:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)=[N:24][C:23]2([C:21]([O:20][CH3:19])=[O:22])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1,water,298.15,16.815854558497474,-35.92984700265423
2312,2568,[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][C:23](=[O:24])[c-:25]1[c:26](=[O:27])[o:28][c:29]([CH3:30])[n+:31]1[CH3:32]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:25]1([C:23]([CH3:22])=[O:24])[C:26](=[O:27])[O:28][C:29]2([CH3:30])[N:31]1[CH3:32],water,298.15,26.873933349891075,-2.5145450366284408
